US09079924B2
Approx. 360 g of ammonia were introduced into a solution of 1000 g of tin tetrachloride in 6650 g of isopropanol. Subsequently, the ammonium chloride was filtered off. An approx. 16% solution of tin tetraisopropoxide in isopropanol was obtained. At a temperature of 70° C., 352 g of N-methyldiethanolamine were added to 6208 g of this solution and the mixture was kept at 70° C. for 1½ h. An approx. 20% solution of the target compound in isopropanol was obtained. Reprecipitation in 1,4-butanediol with distillative removal of isopropanol under reduced pressure afforded the 20% partial solution in 1,4-butanediol.

reactant | ammonia | 360 g | N | H3N
reactant | tin tetrachloride | 1000 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | isopropanol | 6650 g | C(C)(C)O | C3H8O
product | tin tetraisopropoxide | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Sn+4] | InChI=1S/4C3H7O.Sn/c4*1-3(2)4;/h4*3H,1-2H3;/q4*-1;+4
